US05461038
Preparation of O-ethyl O-propyl chlorothiophosphate
To 30 g (167 mmole) of O-ethyl dichlorothiophosphate in 100 ml of tetrahydrofuran (THF) and cooled to -70° C. was added a solution of sodium propoxide (from 7.4 g of 60% Nail (184 mmole) and 11 g (176 mmole) of 1-propanol) in 50 ml of THF. After warming to room temperature over 2 hours, the THF was removed in vacuo and the residue was partitioned between 50 ml diethyl ether, 50 ml hexanes, and 25 ml cold water. The organic layer was dried over magnesium sulfate, concentrated in vacuo, and distilled (bp 45°-50° C. 1 torr) yielding 20 g of the title compound, an oil. nmr 1.0 t 3H, 1.4 t 3H, 1.8 sextet 2H, 4.4 M 4H.

reactant | O-ethyl dichlorothiophosphate | 167 mmole, 30 g | P(=S)(OCC)(Cl)Cl | C2H5Cl2OPS
reactant | sodium propoxide | 184 mmole, 7.4 g | [O-]CCC.[Na+]
reactant | 1-propanol | 176 mmole | C(CC)O | C3H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | THF | 50 ml | O1CCCC1 | C4H8O
product | O-ethyl O-propyl chlorothiophosphate | 20 g | P(=S)(OCC)(OCCC)Cl | C5H12ClO2PS
